### ISSUE TITLE
`elabTermWithHoles _ _ _ (allowNaturalHoles := true)` produces invalid terms

### ISSUE THREAD

**Issue by eric-wieser** [leanprover/lean4#7677]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `refine'` tactic (and the `elabTermWithHoles` function it calls) can produce terms which do not type-check

### Context

[Broader context that the issue occurred in. If there was any prior discussion on [the Lean Zulip](https://leanprover.zulipchat.com), link it here as well.]

### Steps to Reproduce

Run
```lean
import Lean

theorem foo : False := by
  refine' of_decide_eq_true (by rfl : ↑_ = _)
```

**Expected behavior:** An error is emitted somewhere on the last line

**Actual behavior:** The error appears on the `foo` token

This can be further minimized to
```lean
import Lean

open Lean Elab Tactic

theorem foo : False := by
  run_tac 
    let (e, _) ← elabTermWithHoles (← `(of_decide_eq_true (by rfl : ↑_ = _))) (some <| .const ``False []) `foo (allowNaturalHoles := true)
    Meta.check e
```
or
```lean
import Lean

open Lean Elab Tactic

theorem foo : False := by
  run_tac 
    let e ← Meta.withAssignableSyntheticOpaque <|
      elabTermEnsuringType (← `(of_decide_eq_true (by rfl : ↑_ = _))) (some <| .const ``False [])
    Lean.logInfo m!"Produced {e}"
    Meta.check e
```
where the `Meta.check` fails.

### Versions

Lean 4.18.0-rc1
Target: x86_64-unknown-linux-gnu

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by eric-wieser** [comment]
By "this function", do you mean just `elabTermWithHoles` or also `Meta.withAssignableSyntheticOpaque`?

**Comment by Kha** [comment]
Only the first one, I don't know to what degree other callers are affected

**Comment by eric-wieser** [comment]
It looks like none of the other callers of `withAssignableSyntheticOpaque` invoke `elabTerm`; so once `refine'` is removed, perhaps `elabTerm` should error if `withAssignableSyntheticOpaque` is in effect.
